US06943168B2
Synthesis of 6,6-bis-(4-fluoro-phenyl)-6-hydroxy-1-[4-(3,4,5,-trimethoxy-benzoyl)-piperazin-1-yl]-hexan-1-one (P46)
To a solution of 6,6-bis-(4-fluoro-phenyl)-1-[4-(3,4,5,-trimethoxy-benzoyl)-piperazin-1-yl]-hex-5-en-1-one (1.62 g, 2.87 mmol) in dry THF (20 ml) a solution of Hg(OAc)2 (0.9 g, 2.87 mmol) in water:THF (1:1, 6 ml) was added. The mixture was then refluxed overnight. NaOH (3M, 3 ml) was added followed by addition of NaBH4 (54 mg, 1.43 mmol). The mixture was stirred for 4 hrs and separated organic layer was saturated with NaCl

reactant | 6,6-bis-(4-fluoro-phenyl)-1-[4-(3,4,5,-trimethoxy-benzoyl)-piperazin-1-yl]-hex-5-en-1-one | 2.87 mmol, 1.62 g | FC1=CC=C(C=C1)C(=CCCCC(=O)N1CCN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C1=CC=C(C=C1)F | C32H34F2N2O5
reactant | NaOH | 3M, 3 ml | [OH-].[Na+]
reactant | NaBH4 | 1.43 mmol, 54 mg | [BH4-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water THF | 6 ml | O.C1CCOC1
catalyst | Hg(OAc)2 | 2.87 mmol, 0.9 g | [Hg](OC(=O)C)OC(=O)C
product | 6,6-bis-(4-fluoro-phenyl)-6-hydroxy-1-[4-(3,4,5,-trimethoxy-benzoyl)-piperazin-1-yl]-hexan-1-one | FC1=CC=C(C=C1)C(CCCCC(=O)N1CCN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)(O)C1=CC=C(C=C1)F | C32H36F2N2O6
